US05972888
Preparation of [6-(n-pentylsulfonoyl)-2-[4-(n-pentylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone, Hydrochloride
[6-(n-Pentylsulfonoyl)-2-[4-(n-pentylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone (3.7 g) was dissolved in 25 ml of ethyl acetate and a solution of hydrochloric acid saturated diethyl ether was added. A precipitate formed and the liquid decanted off. The gummy solid was triturated with diethyl ether and dried in vacuo at room temperature to afford 2.12 g of the title compound as a white amorphous and hygroscopic solid.

reactant | [6-(n-Pentylsulfonoyl)-2-[4-(n-pentylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone | 3.7 g | C(CCCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCCC)C1 | C38H47NO6S3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | [6-(n-pentylsulfonoyl)-2-[4-(n-pentylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]-phenyl] methanone, Hydrochloride | 2.12 g | Cl.C(CCCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCCC)C1 | InChI=1S/C38H47NO6S3.ClH/c1-3-5-10-26-47(41,42)32-18-14-30(15-19-32)38-36(34-21-20-33(28-35(34)46-38)48(43,44)27-11-6-4-2)37(40)29-12-16-31(17-13-29)45-25-24-39-22-8-7-9-23-39;/h12-21,28H,3-11,22-27H2,1-2H3;1H
